US04065563
5-(4-Isothiocyanophenyl)-3-(2-pyridyl)-1,2,4-oxadiazole
To a solution of 1.09 g of 5-(4-aminophenyl)-3-(2-pyridyl)-1,2,4-oxadiazole in 200 ml of dry tetrahydrofuran containing 0.42 g of triethylamine, 0.50 g of thiophosgene is added and the mixture stirred at room temperature for 6 hours. After filtration, the solution is evaporated in vacuo to give the crude product. It is crystallized from petroleum ether to give 0.65 g (54%) of the title product, m.p. 145°-146°.

reactant | 5-(4-aminophenyl)-3-(2-pyridyl)-1,2,4-oxadiazole | 1.09 g | NC1=CC=C(C=C1)C1=NC(=NO1)C1=NC=CC=C1 | C13H10N4O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | thiophosgene | 0.50 g | C(=S)(Cl)Cl | CCl2S
solvent | tetrahydrofuran | 200 ml, 0.42 g | O1CCCC1 | C4H8O
product | 5-(4-Isothiocyanophenyl)-3-(2-pyridyl)-1,2,4-oxadiazole | 0.65 g, 54% | N(=C=S)C1=CC=C(C=C1)C1=NC(=NO1)C1=NC=CC=C1 | C14H8N4OS
